US04536505
A solution of 2.5 g ethyl 3-(3-indolyl)-butyrate and 1.15 ml of 3-bromopyridine in 25 ml of pyridine is refluxed with 1.25 g of copper oxide and 1.25 g of potassium carbonate for 72 hours, filtered and evaporated to a brown oil which is chromatographed on 64 g of silica with 8:1 toluene-ethyl acetate to yield 3-(3-ethoxycarbonyl-2-propyl)-N-(3-pyridyl)indole; Rf (15% EtOAc, 85% toluene/silica gel)=0.35; IR (CH2Cl2) 1725 cm-1.

reactant | ethyl 3-(3-indolyl)-butyrate | 2.5 g | N1C=C(C2=CC=CC=C12)C(CC(=O)OCC)C | C14H17NO2
reactant | 3-bromopyridine | 1.15 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | potassium carbonate | 1.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
catalyst | copper oxide | 1.25 g | [Cu]=O
product | 3-(3-ethoxycarbonyl-2-propyl)-N-(3-pyridyl)indole | C(C)OC(=O)CC(C)C1=CN(C2=CC=CC=C12)C=1C=NC=CC1 | C19H20N2O2
